2153-04-25 06:34:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   new episode of hematemesis x150 cc, prbc, FFP, vitk, protonix ggt
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2153-4-25**] 12:30 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2153-4-24**] 08:00 PM
   Morphine Sulfate - [**2153-4-24**] 10:00 PM
   Hydromorphone (Dilaudid) - [**2153-4-25**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-4-25**] 06:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.1
C (98.8
   HR: 93 (82 - 97) bpm
   BP: 131/74(88) {124/69(87) - 148/95(107)} mmHg
   RR: 22 (17 - 24) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
           Total In:
                                                                    360 mL
                                                                    972 mL
   PO:
           TF:
   IVF:
                                                                    360 mL
                                                                    622 mL
   Blood products:
   350 mL
   Total out:
                                                                    275 mL
                                                                    365 mL
   Urine:
                                                                    275 mL
                                                                    215 mL
   NG:
   150 mL
   Stool:
   Drains:
   Balance:
                                                                     85 mL
                                                                    607 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///24/
   Physical Examination
   General: Alert, oriented, no acute distress
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, ronchi
   CV: Regular rate and rhythm, normal S1 + S2, 3/6 systolic murmur best
   heard at RUSB
   Abdomen: distended, epigastric ttp  no rebound tenderness or guarding
   Rectal: guaiac positive
   Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Labs / Radiology
   107 K/uL
   8.4 g/dL
   148 mg/dL
   0.9 mg/dL
   24 mEq/L
   5.0 mEq/L
   49 mg/dL
   106 mEq/L
   141 mEq/L
   24.4 %
   22.7 K/uL
        [image002.jpg]
                             [**2153-4-24**]  07:50 PM
                             [**2153-4-25**]  03:00 AM
   WBC
   24.0
   22.7
   Hct
   28.0
   24.4
   Plt
   110
   107
   Cr
   0.8
   0.9
   Glucose
   141
   148
   Other labs: PT / PTT / INR:18.2/40.7/1.7, ALT / AST:33/88, Alk Phos / T
   Bili:197/1.5, Amylase / Lipase:/15, Differential-Neuts:57.0 %,
   Band:14.0 %, Lymph:8.0 %, Mono:2.0 %, Eos:2.0 %, Fibrinogen:75 mg/dL,
   Lactic Acid:1.7 mmol/L, LDH:1665 IU/L, Ca++:8.2 mg/dL, Mg++:2.7 mg/dL,
   PO4:4.9 mg/dL
   Assessment and Plan
   63-yo M with history of AS s/p AVR, PAF, [**Hospital 741**] transferred from OSH with
   Hct drop, esophageal mass.
   .
   # Anemia: likely from GI bleed. Hct in low 20s on admission at [**Hospital1 **], now s/p 4 upRBCs. Bleeding likely from esophageal mass that
   was shown to be oozing on endoscopy. Currently hemodynamically stable.
   - recheck CBC stat; transfuse if Hct < 21 or active bleeding
   - keep active type and screen
   - large-bored PIVs
   - pantoprazole 40 mg IV q12h
   - GI c/s
   .
   # Coagulopathy: INR 3.0, not on warfarin. Concerning for DIC. S/p FFP
   at [**Hospital1 **].
   - DIC labs
   - monitor coags
   .
   # Esophageal mass: concerning for malignancy. Already biopsied at
   [**Hospital1 **].
   - GI c/s
   - review EGD report
   - f/u biopsy results
   .
   # Abdominal pain: with constipation. No evidence of bowel obstruction
   per OSH CT and barium enema studies. Might be from esophageal mass with
   possible metastases.
   - pain control
   - review OSH CT; if necessary, will re-scan
   .
   # H/o HTN:
   - hold metoprolol given GI bleed
   .
   # FEN: replete electrolytes, NPO
   .
   # Prophylaxis: pneumoboots
   .
   # Access: peripherals
   .
   # Code: Full
   .
   # Communication: HCP wife [**Name (NI) 9044**] [**Telephone/Fax (1) 9045**]
   .
   # Disposition: MICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2153-4-24**] 06:47 PM
   18 Gauge - [**2153-4-24**] 10:10 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2153-04-26 07:38:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   --given 3 U PRBC since arrival awith one unit of cryoprecipitate
   --VSS,  but Hct not bumping appropriately
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2153-4-25**] 10:49 AM
   Erythromycin - [**2153-4-25**] 11:50 AM
   Metronidazole - [**2153-4-25**] 01:21 PM
   Piperacillin/Tazobactam (Zosyn) - [**2153-4-25**] 09:15 PM
   Infusions:
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2153-4-26**] 05:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-4-26**] 07:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 37.8
C (100
   HR: 102 (84 - 114) bpm
   BP: 143/72(91) {108/52(68) - 165/89(120)} mmHg
   RR: 23 (16 - 27) insp/min
   SpO2: 92%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 72 Inch
           Total In:
                                                                  5,108 mL
                                                                  1,362 mL
   PO:
           TF:
   IVF:
                                                                  2,613 mL
                                                                    564 mL
   Blood products:
                                                                  2,494 mL
                                                                    798 mL
   Total out:
                                                                  1,895 mL
                                                                    500 mL
   Urine:
                                                                  1,445 mL
                                                                    500 mL
   NG:
                                                                    450 mL
   Stool:
   Drains:
   Balance:
                                                                  3,213 mL
                                                                    862 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 92%
   ABG: ///27/
   Physical Examination
   General Appearance: NAD despite blood in nose and oropharynx
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, blood in mouth, on lips
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur:  early peaking
   crescendo 2/6 systolic murmur
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Tender: epigastrium
   Extremities: diminished peripheral pulses R more so then left, b/l ext
   cool
   Skin:  no petechiae
   Neurologic: CN 2-12 intact, [**4-17**] symmetric strength in upper and lower
   exts
   MICRO: BCX x 2 pending   UCX pending
   Labs / Radiology
   60 K/uL
   8.6 g/dL
   159 mg/dL
   1.0 mg/dL
   27 mEq/L
   4.5 mEq/L
   57 mg/dL
   110 mEq/L
   145 mEq/L
   24.1 %
   18.2 K/uL
        [image002.jpg]
                             [**2153-4-24**]  07:50 PM
                             [**2153-4-25**]  03:00 AM
                             [**2153-4-25**]  09:39 AM
                             [**2153-4-25**]  07:28 PM
                             [**2153-4-25**]  11:00 PM
                             [**2153-4-26**]  05:15 AM
   WBC
   24.0
   22.7
   20.2
   19.1
   18.2
   Hct
   28.0
   24.4
   24.5
   22.1
   23.0
   24.1
   Plt
   110
   107
   65
   63
   60
   Cr
   0.8
   0.9
   1.0
   1.0
   Glucose
   141
   148
   159
   Other labs: PT / PTT / INR:16.8/36.1/1.5, ALT / AST:31/85, Alk Phos / T
   Bili:197/1.9, Amylase / Lipase:/15, Differential-Neuts:57.0 %,
   Band:14.0 %, Lymph:8.0 %, Mono:2.0 %, Eos:2.0 %, Fibrinogen:108 mg/dL,
   Lactic Acid:1.7 mmol/L, LDH:[**2132**] IU/L, Ca++:8.2 mg/dL, Mg++:2.9 mg/dL,
   PO4:4.9 mg/dL
   Assessment and Plan
 LEUKOCYTOSIS
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
   Patient is a 63 yo M  with newly diagnosed adenocarcinoma (likely stage
   IV) with bleeding being treated with XRT, also with DIC and hemolysis.
   1. GI bleed: Patient is bleeding from known adenocarcinoma (presumed
   stage 4 given LAD).  Short term plan includes XRT to decrease bleeding.
   GI following. General surgery has suggested involvement of thoracic
   surgery to control bleeding.
   - CHECK Q4 Hct: transfuse for Hct<25
   - f/u GI recs: regarding benefit of endoscopy given bleeding
   - f/u Onc and Rad Onc recs
   - consult thoracic surgery re: possible role for control of bleeding
   - PPI gtt
   - needs central access vs peripheral IV
   2. . DIC/ hemolysis: Severe coagulopathy likely secondary to neoplastic
   process.  Given risk of bleeding, will not give heparin gtt, will only
   replete coagulation factors prn as per heme onc parameters: giving cryo
   for fibrinogen <100, giving FFP for elevated PTT,PT. Since arrival to
   [**Hospital Unit Name 44**], s/p 3 U pRBC and 1 U Cryo.
   - checking coag factors and Hct q4 hours, transfuse for Hct<25
   - given cold lower exts: checking q1h pulses and arterial studies  of
   legs; unclear what intervention would be pursued if clotting in LE
   vasculature
   3  Esophageal cancer: Patient is s/p first XRT pending second today,
   HemeOnc following, chemo being considered.
   4. AVR: patient with aortic valve replacement, stable currently without
   anticoagulation as bioprosthetic
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2153-4-24**] 06:47 PM
   18 Gauge - [**2153-4-24**] 10:10 PM
   Prophylaxis:
   DVT:
   Stress ulcer: iv ppi drip
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2153-04-27 06:49:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 RADIATION THERAPY - At [**2153-4-26**] 11:56 AM
   pt went to XRT for second treatment. Plan to do another treatment
   tomorrow.
 ULTRASOUND - At [**2153-4-26**] 02:43 PM
   vascular studies lower extremities.
 MULTI LUMEN - START [**2153-4-26**] 09:44 PM
   - Received 3 units prbc's, 1 cryo
   - RIJ placed
   - Got [**1-16**] XRT
   - Got vascular study, results pending
   - Thoracics: No surgical intervention (esophagectomy would kill him)
   - Onc: Poor prognosis, hesitant to start chemo, but may consider Fri
   vs. weekend
   - Distended belly, manually removed some maroon stool, got 2 enemas,
   started Zosyn, KUB showed impaction, planned to get CT abd/pelvis but
   this was delayed because he has barium in colon so study will not be
   diagnostic anyway, started IV Reglan for motility
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2153-4-25**] 10:49 AM
   Erythromycin - [**2153-4-25**] 11:50 AM
   Metronidazole - [**2153-4-25**] 01:21 PM
   Piperacillin/Tazobactam (Zosyn) - [**2153-4-26**] 11:15 PM
   Infusions:
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2153-4-27**] 05:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-4-27**] 06:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 37.8
C (100.1
   HR: 121 (102 - 134) bpm
   BP: 129/65(81) {110/64(75) - 175/88(107)} mmHg
   RR: 21 (15 - 26) insp/min
   SpO2: 92%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 72 Inch
           Total In:
                                                                  3,476 mL
                                                                    780 mL
   PO:
           TF:
   IVF:
                                                                  1,828 mL
                                                                    128 mL
   Blood products:
                                                                  1,648 mL
                                                                    651 mL
   Total out:
                                                                  1,750 mL
                                                                    325 mL
   Urine:
                                                                  1,750 mL
                                                                    325 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,726 mL
                                                                    455 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 92%
   ABG: ////
   Physical Examination
   General Appearance: NAD despite blood in nose and oropharynx
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: blood in mouth, on lips, crusting on nares
   Cardiovascular:  2/6 systolic murmur
   Respiratory / Chest: lungs clear bilaterally
   Abdominal: distended, mildly tender diffusely to palpation without
   rebound or guarding, normoactive bowel sounds,
   Extremities: bilateral lower extremity pulses not palpable but faintly
   Doppler-able, feet cool
   Skin:  no petechiae, ecchymoses on arms
   Neurologic: alert and oriented, conversant
   Labs / Radiology
   76 K/uL
   7.5 g/dL
   159 mg/dL
   1.0 mg/dL
   27 mEq/L
   4.5 mEq/L
   57 mg/dL
   110 mEq/L
   145 mEq/L
   20.4 %
   18.2 K/uL
        [image002.jpg]
                             [**2153-4-25**]  03:00 AM
                             [**2153-4-25**]  09:39 AM
                             [**2153-4-25**]  07:28 PM
                             [**2153-4-25**]  11:00 PM
                             [**2153-4-26**]  05:15 AM
                             [**2153-4-26**]  09:33 AM
                             [**2153-4-26**]  02:45 PM
                             [**2153-4-26**]  05:47 PM
                             [**2153-4-26**]  09:52 PM
                             [**2153-4-27**]  01:26 AM
   WBC
   22.7
   20.2
   19.1
   18.2
   20.3
   19.1
   18.8
   19.2
   18.2
   Hct
   24.4
   24.5
   22.1
   23.0
   24.1
   23.9
   23.2
   25.2
   23.3
   20.4
   Plt
   107
   65
   63
   60
   56
   53
   56
   43
   76
   Cr
   0.9
   1.0
   1.0
   Glucose
   148
   159
   Other labs: PT / PTT / INR:16.9/37.1/1.5, ALT / AST:31/85, Alk Phos / T
   Bili:197/1.9, Amylase / Lipase:/15, Differential-Neuts:70.0 %, Band:6.0
   %, Lymph:12.0 %, Mono:3.0 %, Eos:0.0 %, Fibrinogen:119 mg/dL, Lactic
   Acid:1.7 mmol/L, Albumin:2.7 g/dL, LDH:[**2132**] IU/L, Ca++:7.5 mg/dL,
   Mg++:2.9 mg/dL, PO4:4.9 mg/dL
   MICRO:  blood cx [**4-25**] and [**4-26**] pending,
   Imaging:
   KUB [**4-26**]:
   Continued air-filled distended colon with persistent oral
   contrast. However, more oral contrast has progressed through the colon
   with a
   larger amount of contrast definitely seen within the rectum.
   Assessment and Plan
 INEFFECTIVE COPING
 ALTERATION IN TISSUE PERFUSION
 LEUKOCYTOSIS
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
   Patient is a 63 yo M  with newly diagnosed adenocarcinoma (likely stage
   IV) with bleeding being treated with XRT, also with DIC and hemolysis.
   #. GI bleed:  Secondary to esophageal adenocarcinoma.   It is unclear
   the rate of loss since he isn
t having much stool and his anemia is
   complicated by DIC.   He is getting XRT which may help stop bleeding.
   If so, we would expect to see an effect within days.  Because the
   bleeding vessels are small branches of the aorta, IR has said they
   would not be able to control bleeding by an embolization procedure.
   Thoracic surgery has said that surgery would not be an option for
   short-term control of bleeding.  Even if he were a candidate for
   chemotherapy, this would be unlikely to benefit him in terms of
   short-term bleeding.
   - continue PPI gtt
   - continue q4h Hct; transfuse to keep Hct >25
   - XRT #3 today and f/u rad onc recs
   - f/u with oncology
   - check Q4 Hct: transfuse for Hct<25
   - f/u GI recs: regarding benefit of endoscopy given bleeding
   - consult thoracic surgery re: possible role for control of bleeding
   - PPI gtt
   - needs central access vs peripheral IV
   #. DIC: Likely secondary to tumor.   The treatment will be systemic
   treatment of the tumor.  Lower suspicion for sepsis leading to DIC, but
   this is on the differential, and definitely a concern given fever last
   night.
   - q4h lab checks
   - replete with cryoprecipitate PRN fibrinogen <100
   - continue to discuss the possibility of chemotherapy with oncology, as
   below
   - f/u vascular studies of lower extremities for possibility of ischemia
   secondary to coagulation, although would not be able to therapeutically
   anticoagulate him even if this were the case.
   .
   #) Distended abdomen:  With large stool in the abdomen. This is most
   likely an ileus secondary to narcotics.  Barium study several days ago
   negative for colonic obstruction, although this would be a concern
   given known abdominal lymphadenopathy.  Currently another barium study
   would not be helpful until he clears current stool. Plenty of melanotic
   stool evacuated on rectal exam.
   - continue to monitor exam
   - continue reglan for motility
   - continue Zosyn which would empirically cover if gut is source of an
   infection (given fevers, as below)
   - repeat KUB
   - CT today if worsens.
   .
   #)  Esophageal cancer:  likely stage 4 based on mediastinal and
   retroperitoneal LAD.  Oncology is following
   - continue to discuss with oncology whether chemotherapy might be an
   option
   - ongoing discussion with patient and his family regarding prognosis
   and goals of care
   .
   #) Fever:  100.8 at midnight.  Could be secondary to tumor vs
   infection.  Started Zosyn empirically yesterday given abdominal
   symptoms.   Cultures negative to date.
   - f//u cultures
   - trend fever curve
   .
   #) AVR: patient with aortic valve replacement, stable currently without
   anticoagulation as bioprosthetic
   .
   #) Patient coping:  social work is involved, ongoing discussion with
   family
   - palliative care consult
   .
   #) Goals of care:  Family has expressed that patient would not want to
   know the gravity of his situation.  The team has communicated with them
   that this is not a feasible long-term option, especially if
   chemotherapy is a consideration.  Oncology is planning to have a
   discussion with him and his family today.
   ICU Care
   Nutrition:  NPO for now
   Glycemic Control:
   Lines:
   20 Gauge - [**2153-4-24**] 06:47 PM
   18 Gauge - [**2153-4-26**] 01:05 PM
   Multi Lumen - [**2153-4-26**] 09:44 PM
   Prophylaxis:
   DVT:  pneumoboots
   Stress ulcer:  PPI gtt
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU for now

2153-04-28 07:12:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2153-4-27**] 10:00 AM
 BLOOD CULTURED - At [**2153-4-27**] 10:11 AM
 RADIATION THERAPY - At [**2153-4-27**] 02:14 PM
 EKG - At [**2153-4-27**] 10:00 PM
 FEVER - 101.8
F - [**2153-4-27**] 10:00 AM
   [**4-27**]
   - Transfused 5 units YESTERDAY, 2 Units overnight, 2 unit platelets, 1
   unit cryo
   - Bumped fibrinogen & platelets appropriately, and bumped Hct to
   overnight transfusions
   - Creatinine improving with transfusions
   - Free water deficit ~ 5L.  Given 2L D5W, will reassess with AM labs
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2153-4-25**] 10:49 AM
   Erythromycin - [**2153-4-25**] 11:50 AM
   Metronidazole - [**2153-4-25**] 01:21 PM
   Piperacillin/Tazobactam (Zosyn) - [**2153-4-28**] 12:42 AM
   Infusions:
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2153-4-28**] 01:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-4-28**] 07:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.8
   Tcurrent: 37.4
C (99.4
   HR: 102 (101 - 123) bpm
   BP: 123/64(80) {112/63(75) - 160/99(121)} mmHg
   RR: 22 (15 - 23) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 72 Inch
           Total In:
                                                                  4,991 mL
                                                                    884 mL
   PO:
           TF:
   IVF:
                                                                  2,660 mL
                                                                    184 mL
   Blood products:
                                                                  2,331 mL
                                                                    700 mL
   Total out:
                                                                  1,950 mL
                                                                    550 mL
   Urine:
                                                                  1,950 mL
                                                                    550 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,041 mL
                                                                    334 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 99%
   ABG: ///28/
   Physical Examination
   General Appearance: NAD
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: blood in mouth, on lips, crusting on nares
   Cardiovascular:  2/6 systolic murmur
   Respiratory / Chest: lungs clear bilaterally
   Abdominal: distended, mildly tender diffusely to palpation without
   rebound or guarding, normoactive bowel sounds,
   Extremities: bilateral lower extremity pulses not palpable but faintly
   Doppler-able, feet cool
   Skin:  no petechiae, ecchymoses on arms
   Neurologic: alert and oriented, conversant
   Labs / Radiology
   74 K/uL
   9.5 g/dL
   162 mg/dL
   1.1 mg/dL
   28 mEq/L
   4.0 mEq/L
   63 mg/dL
   120 mEq/L
   155 mEq/L
   27.1 %
   15.6 K/uL
        [image002.jpg]
                             [**2153-4-26**]  09:33 AM
                             [**2153-4-26**]  02:45 PM
                             [**2153-4-26**]  05:47 PM
                             [**2153-4-26**]  09:52 PM
                             [**2153-4-27**]  01:26 AM
                             [**2153-4-27**]  08:14 AM
                             [**2153-4-27**]  11:51 AM
                             [**2153-4-27**]  04:28 PM
                             [**2153-4-27**]  07:58 PM
                             [**2153-4-28**]  04:40 AM
   WBC
   20.3
   19.1
   18.8
   19.2
   18.2
   20.1
   16.9
   16.4
   16.0
   15.6
   Hct
   23.9
   23.2
   25.2
   23.3
   20.4
   25.4
   23.8
   22.8
   24.7
   27.1
   Plt
   56
   53
   56
   43
   76
   67
   53
   48
   39
   74
   Cr
   1.4
   1.6
   1.5
   1.3
   1.1
   Glucose
   170
   171
   210
   185
   162
   Other labs: PT / PTT / INR:14.7/28.8/1.3, ALT / AST:31/85, Alk Phos / T
   Bili:197/1.9, Amylase / Lipase:/15, Differential-Neuts:60.0 %, Band:9.0
   %, Lymph:14.0 %, Mono:4.0 %, Eos:4.0 %, Fibrinogen:113 mg/dL, Lactic
   Acid:1.7 mmol/L, Albumin:2.7 g/dL, LDH:[**2132**] IU/L, Ca++:8.1 mg/dLKUB,
   Mg++:2.9 mg/dL, PO4:3.7 mg/dL
   Imaging: KUB 5/15Continued air-filled loops of colon but with
   progression of oral
   contrast through the colon to the rectum. No evidence of mechanical
   obstruction. DISTENSION UP TO 8.4 CM
   Microbiology: All BCx/ UCx 5/12-515 NGTD
   Assessment and Plan
 HYPOXEMIA
 DISSEMINATED INTRAVASCULAR COAGULATION (DIC)
 HYPERNATREMIA (HIGH SODIUM)
 INEFFECTIVE COPING
 ALTERATION IN TISSUE PERFUSION
 LEUKOCYTOSIS
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
    PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
   Patient is a 63 yo M  with newly diagnosed adenocarcinoma (likely stage
   IV) with bleeding being treated with XRT, also with DIC and hemolysis.
   #. GI bleed:  Secondary to esophageal adenocarcinoma.   It is unclear
   the rate of loss since he isn
t having much stool and his anemia is
   complicated by DIC.   He is getting XRT which may help stop bleeding.
   If so, we would expect to see an effect within days.  Because the
   bleeding vessels are small branches of the aorta, IR has said they
   would not be able to control bleeding by an embolization procedure.
   Thoracic surgery has said that surgery would not be an option for
   short-term control of bleeding.
   - continue PPI gtt
   - check Q4 Hct and free Ca/ K: transfuse for Hct<25
   - s/pXRT x3; f/u rad onc recs
   - f/u with GI and CT [**Doctor First Name 458**], although there is no immediate role for
   intervention, there may be if DIC improves with XRT/chemo
   - maintain 2 peripheral in addition to IJ
   #. DIC: Likely secondary to tumor; unlikely to be [**1-15**] sepsis as pt not
   exhibiting septic physiology, but this is still on the differential and
   he is being covered with zosyn.   The treatment will be systemic
   treatment of the tumor WITH chemo/ XRT.
    - q4h lab checks for fibrinogen, platelets and PT/PTT
   - replete platelets prn for plt<50
   - replete with cryoprecipitate PRN fibrinogen <100
   - replete with FFP if PT/PTT become elevated which has not been an
   issue yet
   - continue to discuss the possibility of chemotherapy with oncology, as
   below
   - f/u vascular studies of lower extremities for possibility of ischemia
   secondary to coagulation, although would not be able to therapeutically
   anticoagulate him even if this were the case.
   .
   #) Distended abdomen:  With large stool in the abdomen. This is most
   likely an ileus secondary to narcotics.  KUB showing contrast
   descending into the rectum and colonic dilation up to 8 cm.
   - continue to monitor exam, repeat KUB
   - continue reglan for motility
   - continue Zosyn which would empirically cover if gut is source of an
   infection (given fevers, as below)
   - repeat KUB
   - CT if worsens.
   .
   #)  Esophageal cancer:  likely stage 4 based on mediastinal and
   retroperitoneal LAD.  Oncology is following
   - first dose of chemotherapy today, needs foley for this
   - ongoing discussion with patient and his family regarding prognosis
   and goals of care
   .
   #) Fever:   Could be secondary to tumor vs infection.  Started Zosyn
   empirically (d1=[**4-26**]) given abdominal symptoms.   Cultures negative to
   date.
   - f//u cultures
   - trend fever curve
   .
   #) AVR: patient with aortic valve replacement, stable currently without
   anticoagulation as bioprosthetic
   .
   #) Patient coping:  social work is involved, ongoing discussion with
   family
   - palliative care consult
   .
   #) Goals of care:  Family had expressed that patient would not want to
   know the gravity of his situation.  This was discussed with pt today
   and he expressed that he would like to know all details including
   prognosis. He has been seen by palliative care, and remains full code.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2153-4-24**] 06:47 PM
   18 Gauge - [**2153-4-26**] 01:05 PM
   Multi Lumen - [**2153-4-26**] 09:44 PM
   Prophylaxis:
   DVT:  pneumoboots
   Stress ulcer:  PPI gtt
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2153-04-29 07:49:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**4-28**]
   - Pt went into Afib with RVR  (assymptomatic), failed lopressor IV,
   eventually bolused and dripped with diltiazem with good control
   - Given 2 U pRBC overnight, did not require transfusions during the
   day--> blood loss has slowed; also given 2U plts, did not require
   further cryo
   [**4-29**]:
   - required one unit of cryo this am for fibrinogen<100
   - spontaneously converted to sinus
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2153-4-29**] 12:15 AM
   Infusions:
   Pantoprazole (Protonix) - 8 mg/hour
   Diltiazem - 5 mg/hour
   Other ICU medications:
   Metoprolol - [**2153-4-29**] 03:00 AM
   Diltiazem - [**2153-4-29**] 03:55 AM
   Hydromorphone (Dilaudid) - [**2153-4-29**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-4-29**] 07:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 35.9
C (96.6
   HR: 122 (84 - 156) bpm
   BP: 118/71(83) {109/62(75) - 142/81(93)} mmHg
   RR: 17 (14 - 23) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 72 Inch
           Total In:
                                                                  4,350 mL
                                                                  1,710 mL
   PO:
           TF:
   IVF:
                                                                  3,085 mL
                                                                    822 mL
   Blood products:
                                                                  1,133 mL
                                                                    725 mL
   Total out:
                                                                  2,005 mL
                                                                    855 mL
   Urine:
                                                                  2,005 mL
                                                                    855 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,345 mL
                                                                    855 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 95%
   ABG: ///25/
   Physical Examination
   General Appearance: NAD
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: blood in mouth, on lips, crusting on nares
   Cardiovascular:  2/6 systolic murmur
   Respiratory / Chest: lungs clear bilaterally
   Abdominal: less  distended than previously, mildly tender diffusely to
   palpation without rebound or guarding, normoactive bowel sounds,
   Extremities: bilateral lower extremity pulses not palpable but faintly
   Doppler-able, feet cool
   Skin:  no petechiae, ecchymoses on arms
   Neurologic: alert and oriented, conversant
   Labs / Radiology
   92 K/uL
   9.9 g/dL
   192 mg/dL
   0.8 mg/dL
   25 mEq/L
   4.0 mEq/L
   47 mg/dL
   115 mEq/L
   147 mEq/L
   28.4 %
   12.8 K/uL
        [image002.jpg]
                             [**2153-4-27**]  11:51 AM
                             [**2153-4-27**]  04:28 PM
                             [**2153-4-27**]  07:58 PM
                             [**2153-4-28**]  04:40 AM
                             [**2153-4-28**]  08:59 AM
                             [**2153-4-28**]  02:06 PM
                             [**2153-4-28**]  05:05 PM
                             [**2153-4-28**]  09:56 PM
                             [**2153-4-29**]  02:44 AM
                             [**2153-4-29**]  06:32 AM
   WBC
   16.9
   16.4
   16.0
   15.6
   19.1
   16.2
   13.2
   9.8
   12.8
   Hct
   23.8
   22.8
   24.7
   27.1
   28.7
   27.9
   26.8
   24.0
   30.4
   28.4
   Plt
   53
   48
   39
   74
   74
   46
   84
   83
   92
   Cr
   1.6
   1.5
   1.3
   1.1
   1.0
   1.0
   0.9
   0.8
   Glucose
   171
   210
   185
   162
   175
   249
   269
   192
   Other labs: PT / PTT / INR:14.9/29.8/1.3, ALT / AST:27/79, Alk Phos / T
   Bili:197/1.9, Amylase / Lipase:/15, Differential-Neuts:60.0 %, Band:9.0
   %, Lymph:14.0 %, Mono:4.0 %, Eos:4.0 %, Fibrinogen:107 mg/dL, Lactic
   Acid:1.7 mmol/L, Albumin:2.7 g/dL, LDH:[**2132**] IU/L, Ca++:8.0 mg/dL,
   Mg++:2.5 mg/dL, PO4:3.0 mg/dL
   Imaging: CXR:
   Microbiology: ALL URINE AND BLOOD CX'S WITH NGTD
   Assessment and Plan
 CANCER (MALIGNANT NEOPLASM), OTHER
 HYPOXEMIA
 DISSEMINATED INTRAVASCULAR COAGULATION (DIC)
 HYPERNATREMIA (HIGH SODIUM)
 INEFFECTIVE COPING
 ALTERATION IN TISSUE PERFUSION
 LEUKOCYTOSIS
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
   Patient is a 63 yo M  with newly diagnosed adenocarcinoma (likely stage
   IV) with bleeding being treated with XRT, also with DIC and hemolysis.
   #. GI bleed:  Secondary to esophageal adenocarcinoma.   Unclear the
   rate of GI loss since he has not had frank melena (only very dark brown
   guiaic + stools) and his anemia is complicated by DIC.   He is s/p XRT
   and currently undergoing chemo with oxalyplatin and 5FU which may help
   stop bleeding.  Overall, his requirement for red cells and cryo have
   decreased suggesting some progress.  Because the bleeding vessels are
   small branches of the aorta, IR has said they would not be able to
   control bleeding by an embolization procedure.  Thoracic surgery has
   said that surgery would not be an option for short-term control of
   bleeding.
   - continue PPI gtt
   - check Q4 Hct and free Ca/ K: transfuse for Hct<25
   - s/pXRT x3 and currently receiving chemotherapy; f/u ONC and  rad-onc
   recs
   - f/u with GI and CT [**Doctor First Name 458**], although there is no immediate role for
   intervention, there may be if DIC improves with XRT/chemo
   - maintain 2 peripheral in addition to IJ, attempt to obtain PICC
   #. DIC: Likely secondary to tumor; unlikely to be [**1-15**] sepsis as pt not
   exhibiting septic physiology, but this is still on the differential and
   he is being covered with zosyn.   The treatment is systemic treatment
   of the tumor WITH chemo/ XRT as above.
    - q4h lab checks for fibrinogen, platelets and PT/PTT
   - replete platelets prn for plt<50
   - replete with cryoprecipitate PRN fibrinogen <100
   - replete with FFP if PT/PTT become elevated which has not been an
   issue yet
   .
   #) Distended abdomen:  With large stool in the abdomen unchanged on
   repeat study, but pt finally had large BM last night and abdomen
   appears less distended. This was most likely an ileus secondary to
   narcotics, may not entirely be resolved.
    - f/u final read of KUB
   - continue reglan for motility
   - continue Zosyn which would empirically cover if gut is source of an
   infection (given fevers, as below)
   - CT if worsens.
   .
   #)  Esophageal cancer:  likely stage 4 based on mediastinal and
   retroperitoneal LAD.  Oncology is following
   - goal of current chemo XRT is to palliate bleeding, d/w Onc re longer
   term plan
   - ongoing discussion with patient and his family regarding prognosis
   and goals of care
   .
   # AFIB-RVR: Unknown if pt has a hx, unclear precipitant. Clearly not a
   candidate for anticoag given other ongoing issues. Completely
   asymptomatic, vut did have rate as high as 160 with down sloping ST
   depressions laterally. Lopressor only transiently effective. Controlled
   with dilt idrip and then spontaneously converted back to sinus.
   - d/c dilt drip and substitute oral dilt to prevent further RVR
   .
   #) Fever:   Could be secondary to tumor vs infection.  Started Zosyn
   empirically (d1=[**4-26**]) given abdominal symptoms.   Cultures negative to
   date.
   - f//u cultures
   - trend fever curve
   .
   #) AVR: patient with aortic valve replacement, stable currently without
   anticoagulation as bioprosthetic
   .
   #) Patient coping:  social work is involved, ongoing discussion with
   family
   - palliative care consulted and info given to pt, but they are not
   following daily
   .
   #) Goals of care:  Family had expressed that patient would not want to
   know the gravity of his situation.  This was discussed with pt and he
   expressed that he would like to know all details including prognosis.
   He has been seen by palliative care, and remains full code.
   ICU Care
   Nutrition: TPN
   Glycemic Control:
   Lines:
   Multi Lumen - [**2153-4-26**] 09:44 PM
   20 Gauge - [**2153-4-28**] 08:00 PM
   Prophylaxis:
   DVT: PNEUMOBOOTS
   Stress ulcer: PPI GTT
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: MICU
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:
   Mr. [**Known lastname 91**] has needed 2 uPRBC's overnight. Chemotherapy has been
   started for treatment of underlying esophageal cancer. He has had
   problems with rapid afib and responded to IV diltiazem overnight and is
   back in NSR. PO diltiazem has been started.
   Exam notable for ecchymosis left UE with easy bruisability. He has dry
   MM and his belly is soft today after a large BM. Tm of 99.8, 112/63  HR
   80 RR  14 with sats of 98% on 3 lpm .  His abdomen is non tender but
   enlarged. His extremities are cool with features of stasis dermatitis.
   Better perfusion noted in legs
   Labs notable for WBC 12.8 K, HCT 28.4, plts of 92 ,K+ 4.0, Na of 147,
   Cr  0.8, BUN of 47 . CXR with clear lung fields, RIJ CVL.
   Agree with plan to support with blood products as needed during
   chemotherapy.  PICC access will be established to help with TPN.
   Overall prognosis is guarded but rests on his ability to respond to
   cheno/ XRT. We will check LENI
s for DVT given high risk with
   underlying malignancy and hypercoaguability.
   Remainder of plan as outlined above.
   Patient is ill
   Total time: 50 min
   _________
   [**First Name8 (NamePattern2) **] [**Name8 (MD) 1973**],  MD
   Division of Pulmonary, Critical Care and Sleep Medicine
   [**Hospital1 1015**]
   [**Location (un) 7530**], KS-B23
   [**Location (un) 223**], [**Numeric Identifier 4370**]
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name8 (MD) 1973**], MD
   on:[**2153-4-29**] 16:22 ------

2153-04-30 07:24:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - STOP [**2153-4-29**] 11:00 AM
 PICC LINE - START [**2153-4-29**] 11:00 AM
 EKG - At [**2153-4-29**] 11:00 AM
 PICC LINE - STOP [**2153-4-29**] 07:00 PM
 MIDLINE - START [**2153-4-29**] 07:00 PM
   - No further blood transfusions (except for the two overnight last
   night)
   - 2 units cryo given for low fibrinogen
   - KUB showed stable dilatation of colon, had continued bowel movements
   - RIJ "popped out" while moving him to chair, lots of bleeding (plus
   the added bonus of a chemo spill)
   - PICC placed, lots of bleeding
   - PICC "popped out", lots of bleeding
   - Mid-line placed, still with lots of bleeding, but hopefully okay.
   - Dilt drip stopped, transitioned to PO dilt
   - Still hypernatremic, but given access issues (see above, lots of
   bleeding), encouraged PO free water; once access sorted out, written
   for D5W
   - PM hct down to 22 from 26-->giving 2 units prior to morning labs
   - repleting calcium (written for sliding scale based on free calcium)
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2153-4-29**] 11:45 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2153-4-29**] 08:40 PM
   Hydromorphone (Dilaudid) - [**2153-4-30**] 04:50 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-4-30**] 07:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.6
C (97.8
   HR: 90 (80 - 135) bpm
   BP: 125/66(79) {102/48(61) - 142/88(94)} mmHg
   RR: 16 (16 - 27) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
           Total In:
                                                                  4,193 mL
                                                                  1,917 mL
   PO:
           TF:
   IVF:
                                                                  3,005 mL
                                                                  1,217 mL
   Blood products:
                                                                  1,025 mL
                                                                    700 mL
   Total out:
                                                                  2,865 mL
                                                                  1,255 mL
   Urine:
                                                                  2,865 mL
                                                                  1,255 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,328 mL
                                                                    662 mL
   Respiratory support
   O2 Delivery Device: 40%  Face tent
   SpO2: 95%
   ABG: ///23/
   Physical Examination
   General Appearance: NAD
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: blood in mouth, on lips, crusting on nares
   Cardiovascular:  2/6 systolic murmur
   Respiratory / Chest: lungs clear bilaterally
   Abdominal: less  distended than previously, mildly tender diffusely to
   palpation without rebound or guarding, normoactive bowel sounds
   Extremities: bilateral lower extremity pulses not palpable but faintly
   Doppler-able, feet cool, L arm midline with blood-soaked bandages
   around
   Skin:  no petechiae, ecchymoses on arms
   Neurologic: alert and oriented, conversant
   Labs / Radiology
   58 K/uL
   8.6 g/dL
   173 mg/dL
   1.0 mg/dL
   23 mEq/L
   3.8 mEq/L
   40 mg/dL
   118 mEq/L
   148 mEq/L
   25.0 %
   6.3 K/uL
        [image002.jpg]
                             [**2153-4-28**]  02:06 PM
                             [**2153-4-28**]  05:05 PM
                             [**2153-4-28**]  09:56 PM
                             [**2153-4-29**]  02:44 AM
                             [**2153-4-29**]  06:32 AM
                             [**2153-4-29**]  10:11 AM
                             [**2153-4-29**]  02:18 PM
                             [**2153-4-29**]  06:00 PM
                             [**2153-4-29**]  10:40 PM
                             [**2153-4-30**]  05:08 AM
   WBC
   16.2
   13.2
   9.8
   12.8
   10.9
   10.7
   9.2
   6.8
   6.3
   Hct
   27.9
   26.8
   24.0
   30.4
   28.4
   26.6
   26.8
   26.2
   22.0
   25.0
   Plt
   46
   84
   83
   92
   82
   77
   74
   52
   58
   Cr
   1.0
   0.9
   0.8
   0.9
   1.0
   Glucose
   249
   269
   192
   191
   173
   Other labs: PT / PTT / INR:15.2/28.4/1.3, ALT / AST:27/79, Alk Phos / T
   Bili:197/1.9, Amylase / Lipase:/15, Differential-Neuts:60.0 %, Band:9.0
   %, Lymph:14.0 %, Mono:4.0 %, Eos:4.0 %, Fibrinogen:111 mg/dL, Lactic
   Acid:1.7 mmol/L, Albumin:2.7 g/dL, LDH:[**2132**] IU/L, Ca++:7.9 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.0 mg/dL
   Fibrinogen: 111
   KUB [**4-29**]:
   The transverse colon diameter is approximately 10 cm that is unchanged
   compared to the prior study. The contrast material is present
   throughout the
   colon including the rectosigmoid region. The colon started from the
   distal
   splenic flexure and then through the descending colon and rectosigmoid
   appears
   to be nondistended. The mildly prominent small bowel loops are
   unchanged.
   Assessment and Plan
 CANCER (MALIGNANT NEOPLASM), OTHER
 HYPOXEMIA
 DISSEMINATED INTRAVASCULAR COAGULATION (DIC)
 HYPERNATREMIA (HIGH SODIUM)
 INEFFECTIVE COPING
 ALTERATION IN TISSUE PERFUSION
 LEUKOCYTOSIS
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
   Patient is a 63 yo M  with newly diagnosed adenocarcinoma (likely stage
   IV) with bleeding being treated with XRT, also with DIC and hemolysis.
   #. GI bleed:  He has ongoing melena.  Bleed is secondary to esophageal
   adenocarcinoma.   Rate of bleed is unclear because his anemia is
   compounded by DIC.   He is s/p XRT and currently undergoing chemo with
   oxalyplatin and 5FU which may help stop bleeding.  Overall, his
   requirement for red cells and cryo have decreased suggesting some
   progress.  Because the bleeding vessels are small branches of the
   aorta, IR has said they would not be able to control bleeding by an
   embolization procedure.  Thoracic surgery has said that surgery would
   not be an option for short-term control of bleeding.  PPI gtt switched
   to [**Hospital1 **] IV yesterday given access issues.
   - continue [**Hospital1 **] PPI
   - check Q4 Hct and free Ca/ K: transfuse for Hct<25
   - continue XRT (need to clarify course with rad-onc)
   - f/u with GI and CT [**Doctor First Name 458**], although there is no immediate role for
   intervention, there may be if DIC improves with XRT/chemo
   - maintain access as much as possible
   - discuss with oncology our end-point for bleeding and DIC and how that
   interplays with his long-term oncologic prognosis
   .
   #. DIC: Likely secondary to tumor; unlikely to be [**1-15**] sepsis as pt not
   exhibiting septic physiology, but this is still on the differential and
   he is being covered with zosyn.   The treatment is systemic treatment
   of the tumor with chemo/ XRT as above.
    - q4h lab checks for fibrinogen, platelets and PT/PTT
   - replete platelets prn for plt<50
   - replete with cryoprecipitate PRN fibrinogen <100
   - replete with FFP if PT/PTT become elevated which has not been an
   issue yet
   .
   #) Distended abdomen: Improved clinically, KUBs have been stable.
   Possibly is/was ileus secondary to narcotics?  Now having bowel
   movements.
   - continue reglan for motility
   - continue Zosyn which would empirically cover if gut is source of an
   infection:  plan to continue for 7 days total (2 more) given
   improvement on this medication
   - KUB +/- CT if worsens
   .
   #)  Esophageal cancer:  likely stage 4 based on mediastinal and
   retroperitoneal LAD.  Oncology is following.  Getting XRT and now
   oxalyplatin/5FU chemotherapy.
   - continue 5-FU infusion
   - goal of current chemo and  XRT is to palliate bleeding
   - ongoing discussion with patient and his family regarding prognosis
   and goals of care
   .
   #) Hypernatremia: He continued to be hypernatremic because he has not
   been getting D5W as written secondary to access issues.
   - encourage PO free water
   - IV D5W if/when access available
   .
   #) Alkalemia:  On venous pH.  No evidence of volume depletion.  Unclear
   cause.
   - check ABG
   .
   #) AFIB-RVR: Had an episode with rate as high as 160 with down sloping
   ST depressions laterally on [**4-28**].   Controlled with diltiazem gtt
   followed by PO, reverted in to sinus rhythm and has remained in such
   since.  Not a candidate for anticoagulation given bleeding issues.
   - continue standing PO diliazem
   .
   #) Fever:   No fevers today. Could have been secondary to tumor vs
   infection.  Started Zosyn empirically (d1=[**4-26**]) given abdominal
   symptoms.   Cultures negative to date.
   - f//u cultures
   - trend fever curve
   .
   #) AVR: patient with aortic valve replacement, stable currently without
   anticoagulation as bioprosthetic
   .
   #) Patient coping:  social work is involved, ongoing discussion with
   family
   - palliative care consulted and info given to pt, but they are not
   following daily
   .
   #) Goals of care:  He has been seen by palliative care, and remains
   full code.
   - discuss with oncology his prognosis and end-points
   ICU Care
   Nutrition:  TPN when central access available
   ACCCESS:  will attempt to place PICC today.  Currently has
   20 Gauge - [**2153-4-28**] 08:00 PM
   Midline - [**2153-4-29**] 07:00 PM
   Prophylaxis:
   DVT:  pneumoboots
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:  ICU today ; discuss with oncology possibly calling him
   out to OMED tomorrow

2153-05-01 06:44:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MIDLINE - STOP [**2153-4-30**] 12:00 PM
 PICC LINE - START [**2153-4-30**] 12:00 PM
 RADIATION THERAPY - At [**2153-4-30**] 02:00 PM
 ULTRASOUND - At [**2153-4-30**] 03:00 PM
   LENI's
   -PICC placed, TPN started
   - Continued to hold Blood, platelets, coags until midnight, required 2
   units pRBCs, 1 unit platelets
   -Post transfusion Hct 23.1
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2153-4-29**] 11:45 PM
   Meropenem - [**2153-4-30**] 04:00 PM
   Infusions:
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2153-4-30**] 07:15 AM
   Pantoprazole (Protonix) - [**2153-4-30**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-5-1**] 06:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 36.1
C (97
   HR: 99 (96 - 128) bpm
   BP: 135/89(100) {97/38(53) - 136/89(100)} mmHg
   RR: 22 (16 - 30) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 72 Inch
                  Total In:
                                                                  4,236 mL
                                                                  1,014 mL
   PO:
                                                                    450 mL
                                                                    150 mL
   TF:
   IVF:
                                                                  2,855 mL
   Blood products:
                                                                    700 mL
                                                                    583 mL
   Total out:
                                                                  3,775 mL
                                                                  1,360 mL
   Urine:
                                                                  3,775 mL
                                                                  1,360 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    461 mL
                                                                   -346 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///24/
   Physical Examination
   General Appearance: NAD
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: blood in mouth, on lips, crusting on nares
   Cardiovascular:  2/6 systolic murmur
   Respiratory / Chest: lungs clear bilaterally
   Abdominal: less  distended than previously, mildly tender diffusely to
   palpation without rebound or guarding, normoactive bowel sounds
   Extremities: bilateral lower extremity pulses not palpable but faintly
   Doppler-able, feet cool, L arm midline with blood-soaked bandages
   around
   Skin:  no petechiae, ecchymoses on arms
   Neurologic: alert and oriented, conversant
   Labs / Radiology
   34 K/uL
   6.7 g/dL
   165 mg/dL
   0.8 mg/dL
   24 mEq/L
   4.0 mEq/L
   41 mg/dL
   115 mEq/L
   148 mEq/L
   18.7 %
   5.3 K/uL
        [image002.jpg]
                             [**2153-4-29**]  06:32 AM
                             [**2153-4-29**]  10:11 AM
                             [**2153-4-29**]  02:18 PM
                             [**2153-4-29**]  06:00 PM
                             [**2153-4-29**]  10:40 PM
                             [**2153-4-30**]  05:08 AM
                             [**2153-4-30**]  11:41 AM
                             [**2153-4-30**]  03:36 PM
                             [**2153-4-30**]  07:51 PM
                             [**2153-5-1**]  12:25 AM
   WBC
   12.8
   10.9
   10.7
   9.2
   6.8
   6.3
   6.5
   7.5
   6.1
   5.3
   Hct
   28.4
   26.6
   26.8
   26.2
   22.0
   25.0
   24.9
   23.9
   22.0
   18.7
   Plt
   92
   82
   77
   74
   52
   58
   44
   55
   52
   34
   Cr
   0.8
   0.9
   1.0
   0.8
   Glucose
   192
   191
   173
   165
   Other labs: PT / PTT / INR:15.0/28.6/1.3, ALT / AST:27/79, Alk Phos / T
   Bili:197/1.9, Amylase / Lipase:/15, Differential-Neuts:60.0 %, Band:9.0
   %, Lymph:14.0 %, Mono:4.0 %, Eos:4.0 %, Fibrinogen:163 mg/dL, Lactic
   Acid:1.7 mmol/L, Albumin:2.7 g/dL, LDH:[**2132**] IU/L, Ca++:8.5 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.6 mg/dL
   Imaging: LENIs: IMPRESSION: No evidence of lower extremity DVT.
   Microbiology: [**Date range (1) 9102**] BCx pending
   Assessment and Plan
 CANCER (MALIGNANT NEOPLASM), OTHER
 HYPOXEMIA
 DISSEMINATED INTRAVASCULAR COAGULATION (DIC)
 HYPERNATREMIA (HIGH SODIUM)
 INEFFECTIVE COPING
 ALTERATION IN TISSUE PERFUSION
 LEUKOCYTOSIS
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
   Patient is a 63 yo M  with newly diagnosed adenocarcinoma (likely stage
   IV) with bleeding being treated with XRT, also with DIC and hemolysis.
   #. GI bleed:  He has ongoing melena.  Continued Hct drop. Bleed is
   secondary to esophageal adenocarcinoma.   Rate of bleed is unclear
   because his anemia is compounded by DIC.   He is s/p XRT and currently
   undergoing chemo with oxalyplatin and 5FU which may help stop
   bleeding.  Because the bleeding vessels are small branches of the
   aorta, IR has said they would not be able to control bleeding by an
   embolization procedure.  Thoracic surgery has said that surgery would
   not be an option for short-term control of bleeding.  PPI gtt switched
   to [**Hospital1 **] IV given access issues.  Overall, his requirement for red cells
   have been stable over the past few days, typically requiring 2Units of
   PRBCs per day without any requirements for cryo/FFP recently as
   fibrinogen/INR have been stable.
   - continue [**Hospital1 **] PPI
   - check Q6 Hct and transfuse for Hct<25
   - continue XRT ; per radonc, course to proceed through the end of this
   week
   - f/u GI /CT [**Doctor First Name 458**] recs if any, although there is no immediate role for
   intervention
   - maintain access as much as possible
   - discuss with oncology our end-point for bleeding and DIC and how that
   interplays with his long-term oncologic prognosis
   .
   #. DIC: Likely secondary to tumor; unlikely to be [**1-15**] sepsis as pt not
   exhibiting septic physiology, but this is still on the differential and
   he is being covered with zosyn.   The treatment is systemic treatment
   of the tumor with chemo/ XRT as above.
    - q6h lab checks for fibrinogen, platelets and PT/PTT; fibrinogen
   slowly rising, coags stable.
   - replete platelets prn for plt<50
   - replete with cryoprecipitate PRN fibrinogen <100, though patient has
   not required this recently
   - replete with FFP if PT/PTT become elevated which has not been an
   issue yet
   .
   #) Distended abdomen: Improved clinically, KUBs have been stable.
   Possibly is/was ileus secondary to narcotics?  Now having bowel
   movements.
   - continue reglan for motility
   - continue Zosyn which would empirically cover if gut is source of an
   infection:  plan to continue for 7 days total (2 more) given
   improvement on this medication
   - KUB +/- CT if worsens
   .
   #)  Esophageal cancer:  likely stage 4 based on mediastinal and
   retroperitoneal LAD.  Oncology is following.  Getting XRT and now
   oxalyplatin/5FU chemotherapy.
   - continue 5-FU infusion
   - goal of current chemo and  XRT is to palliate bleeding
   - ongoing discussion with patient and his family regarding prognosis
   and goals of care
   .
   #) Hypernatremia: He continued to be hypernatremic because he had not
   been getting D5W as written secondary to access issues.
   - encourage PO free water
   - IV D5W today as patient now has access for this
   .
   #) Alkalemia:  On venous pH.  No evidence of volume depletion.  Unclear
   cause.
   - check ABG
   .
   #) AFIB-RVR: Had an episode with rate as high as 160 with down sloping
   ST depressions laterally on [**4-28**].   Controlled with diltiazem gtt
   followed by PO, reverted in to sinus rhythm and has remained in such
   since.  Not a candidate for anticoagulation given bleeding issues.
   - continue standing PO diliazem
   .
   #) Fever:   No fevers today. Could have been secondary to tumor vs
   infection.  Started Zosyn empirically (d1=[**4-26**]) given abdominal
   symptoms.   Cultures negative to date.
   - f//u cultures
   - trend fever curve
   .
   #) AVR: patient with aortic valve replacement, stable currently without
   anticoagulation as bioprosthetic
   .
   #) Patient coping:  social work is involved, ongoing discussion with
   family
   - palliative care consulted and info given to pt, but they are not
   following daily
   .
   #) Goals of care:  He has been seen by palliative care, and remains
   full code.
   - discuss with oncology his prognosis and end-points
   ICU Care
   Nutrition:
   TPN without Lipids - [**2153-4-30**] 06:30 PM 42 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2153-4-28**] 08:00 PM
   PICC Line - [**2153-4-30**] 12:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2153-05-02 06:32:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 RADIATION THERAPY - At [**2153-5-1**] 12:15 PM
   -Appropriate bump in Hct after blood transfusion yesterday from 18.7
   --> 23.1 but fell back to 18.9 this morning
   - received 1 unit platelets yesterday for platelet 34
   - no cryo required (fibrinogens now >200)
   -2 Units PRBCs ordered this AM for on-going blood loss and recurrent
   anemia
   History obtained from Patient
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2153-4-30**] 04:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2153-5-1**] 07:46 AM
   Infusions:
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2153-5-1**] 11:30 AM
   Pantoprazole (Protonix) - [**2153-5-1**] 08:09 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-5-2**] 06:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 37.2
C (99
   HR: 100 (85 - 102) bpm
   BP: 139/77(89) {116/55(73) - 151/106(110)} mmHg
   RR: 19 (14 - 22) insp/min
   SpO2: 98%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 72 Inch
           Total In:
                                                                  5,071 mL
                                                                  1,399 mL
   PO:
                                                                    690 mL
           TF:
   IVF:
                                                                  2,105 mL
                                                                    789 mL
   Blood products:
                                                                  1,009 mL
                                                                     77 mL
   Total out:
                                                                  4,050 mL
                                                                  1,780 mL
   Urine:
                                                                  4,050 mL
                                                                  1,780 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,021 mL
                                                                   -381 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///23/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: Conjunctiva pale
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: No(t) Cyanosis
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x 3, Movement: Not assessed, Tone: Not
   assessed
   Labs / Radiology
   57 K/uL
   6.6 g/dL
   222 mg/dL
   0.7 mg/dL
   23 mEq/L
   3.4 mEq/L
   31 mg/dL
   114 mEq/L
   146 mEq/L
   18.9 %
   3.5 K/uL
        [image002.jpg]
                             [**2153-4-30**]  05:08 AM
                             [**2153-4-30**]  11:41 AM
                             [**2153-4-30**]  03:36 PM
                             [**2153-4-30**]  07:51 PM
                             [**2153-5-1**]  12:25 AM
                             [**2153-5-1**]  09:12 AM
                             [**2153-5-1**]  11:41 AM
                             [**2153-5-1**]  03:00 PM
                             [**2153-5-1**]  09:10 PM
                             [**2153-5-2**]  03:15 AM
   WBC
   6.3
   6.5
   7.5
   6.1
   5.3
   4.8
   4.7
   3.7
   3.5
   Hct
   25.0
   24.9
   23.9
   22.0
   18.7
   23.1
   22.7
   19.3
   18.9
   Plt
   58
   44
   55
   52
   34
   46
   69
   64
   66
   57
   Cr
   1.0
   0.8
   0.8
   0.7
   Glucose
   173
   165
   214
   222
   Other labs: PT / PTT / INR:13.3/24.5/1.1, ALT / AST:27/48, Alk Phos / T
   Bili:97/0.8, Amylase / Lipase:/15, Differential-Neuts:60.0 %, Band:9.0
   %, Lymph:14.0 %, Mono:4.0 %, Eos:4.0 %, Fibrinogen:249 mg/dL, Lactic
   Acid:1.7 mmol/L, Albumin:2.0 g/dL, LDH:948 IU/L, Ca++:7.7 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
 CANCER (MALIGNANT NEOPLASM), OTHER
 HYPOXEMIA
 DISSEMINATED INTRAVASCULAR COAGULATION (DIC)
 HYPERNATREMIA (HIGH SODIUM)
 INEFFECTIVE COPING
 ALTERATION IN TISSUE PERFUSION
 LEUKOCYTOSIS
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
   Patient is a 63 yo M  with newly diagnosed adenocarcinoma (likely stage
   IV) with bleeding being treated with XRT, also with DIC and hemolysis.
   #. GI bleed:  He has ongoing melena.  Continued Hct drop. Bleed is
   secondary to esophageal adenocarcinoma.   Rate of bleed is unclear
   because his anemia is compounded by DIC.   He is s/p XRT and currently
   undergoing chemo with oxalyplatin and 5FU which may help stop
   bleeding.  Because the bleeding vessels are small branches of the
   aorta, IR has said they would not be able to control bleeding by an
   embolization procedure.  Thoracic surgery has said that surgery would
   not be an option for short-term control of bleeding.  PPI gtt switched
   to [**Hospital1 **] IV given access issues.  Overall, his requirement for red cells
   have been stable over the past few days, typically requiring 2Units of
   PRBCs per day without any requirements for cryo/FFP recently as
   fibrinogen/INR have been stable.
   - continue [**Hospital1 **] PPI
   - check Q6 Hct and transfuse for Hct<25
   - continue XRT ; per radonc, course to proceed through the end of this
   week
   - f/u GI /CT [**Doctor First Name 458**] recs if any, although there is no immediate role for
   intervention
   - maintain access as much as possible
   - discuss with oncology our end-point for bleeding and DIC and how that
   interplays with his long-term oncologic prognosis
   .
   #. DIC: Likely secondary to tumor; unlikely to be [**1-15**] sepsis as pt not
   exhibiting septic physiology, but this is still on the differential and
   he is being covered with zosyn.   The treatment is systemic treatment
   of the tumor with chemo/ XRT as above
    - q6h lab checks for fibrinogen, platelets and PT/PTT; fibrinogen
   slowly rising, coags stable.
   - replete platelets prn for plt<50
   - replete with cryoprecipitate PRN fibrinogen <100, though patient has
   not required this recently
   - replete with FFP if PT/PTT become elevated which has not been an
   issue yet
   .
   #) Distended abdomen: Improved clinically, KUBs have been stable.
   Possibly is/was ileus secondary to narcotics?  Now having bowel
   movements.
   - continue reglan for motility
   - continue Zosyn which would empirically cover if gut is source of an
   infection:  plan to continue for 7 days total given improvement on this
   medication
   - KUB +/- CT if worsens
   .
   #)  Esophageal cancer:  likely stage 4 based on mediastinal and
   retroperitoneal LAD.  Oncology is following.  Getting XRT and now
   oxalyplatin/5FU chemotherapy.
   - continue 5-FU infusion
   - goal of current chemo and  XRT is to palliate bleeding; XRT to
   continue through the end of the week per RadOnc
   - ongoing discussion with patient and his family regarding prognosis
   and goals of care
   .
   #) Hypernatremia: He continued to be hypernatremic because he had not
   been getting D5W as written secondary to access issues.
   - encourage PO free water
   - IV D5W to correct free water deficit as patient now has access for
   this
   .
   #) Alkalemia:  On venous pH.  No evidence of volume depletion.  Unclear
   cause.
   - check ABG
   .
   #) AFIB-RVR: Had an episode with rate as high as 160 with down sloping
   ST depressions laterally on [**4-28**].   Controlled with diltiazem gtt
   followed by PO, reverted in to sinus rhythm and has remained in such
   since.  Not a candidate for anticoagulation given bleeding issues.
   - continue standing PO diliazem
   .
   #) Fever:   No fevers today. Could have been secondary to tumor vs
   infection.  Started Zosyn empirically (d1=[**4-26**]) given abdominal
   symptoms.   Cultures negative to date.
   - f//u cultures
   - trend fever curve
   .
   #) AVR: patient with aortic valve replacement, stable currently without
   anticoagulation as bioprosthetic
   .
   #) Patient coping:  social work is involved, ongoing discussion with
   family
   - palliative care consulted and info given to pt, but they are not
   following daily
   .
   #) FEN)
   -          Advanced diet to trial of clears yesterday
   .
   #) Goals of care:  He has been seen by palliative care, and remains
   full code.
   - discuss with oncology his prognosis and end-points
   ICU Care
   Nutrition:
   TPN without Lipids - [**2153-5-1**] 06:00 PM 83 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2153-4-28**] 08:00 PM
   PICC Line - [**2153-4-30**] 12:00 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2153-05-03 07:31:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Fibrinogen now normal
   - Advanced diet (but hung TPN because it was already made)
   - No bed on 7-[**Hospital Ward Name 713**] (Not called out)
   - Finished chemotherapy
   - finished 7-day course of Zosyn-->d/ced
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2153-4-30**] 04:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2153-5-1**] 07:46 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2153-5-3**] 04:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-5-3**] 07:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.2
C (98.9
   HR: 100 (80 - 109) bpm
   BP: 153/79(94) {121/61(75) - 176/89(111)} mmHg
   RR: 25 (16 - 25) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
                  Total In:
                                                                  3,296 mL
                                                                    680 mL
   PO:
                  TF:
   IVF:
                                                                  1,055 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  3,650 mL
                                                                    940 mL
   Urine:
                                                                  3,650 mL
                                                                    940 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -354 mL
                                                                   -260 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///26/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: Conjunctiva pale
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: systolic murmur
   Peripheral Vascular: b/l DP pulses now palpable, feet warm
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, mildly distendedBowel sounds present
   Extremities: warm
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x 3, Movement: Not assessed, Tone: Not
   assessed
   Labs / Radiology
   77 K/uL
   8.9 g/dL
   198 mg/dL
   0.7 mg/dL
   26 mEq/L
   3.6 mEq/L
   26 mg/dL
   112 mEq/L
   145 mEq/L
   26.0 %
   3.1 K/uL
        [image002.jpg]
                             [**2153-4-30**]  07:51 PM
                             [**2153-5-1**]  12:25 AM
                             [**2153-5-1**]  09:12 AM
                             [**2153-5-1**]  11:41 AM
                             [**2153-5-1**]  03:00 PM
                             [**2153-5-1**]  09:10 PM
                             [**2153-5-2**]  03:15 AM
                             [**2153-5-2**]  12:50 PM
                             [**2153-5-2**]  07:31 PM
                             [**2153-5-3**]  04:04 AM
   WBC
   6.1
   5.3
   4.8
   4.7
   3.7
   3.5
   4.1
   4.4
   3.1
   Hct
   22.0
   18.7
   23.1
   22.7
   19.3
   18.9
   24.0
   26.5
   26.0
   Plt
   52
   34
   46
   69
   64
   66
   57
   59
   68
   77
   Cr
   0.8
   0.7
   0.6
   0.7
   Glucose
   [**Telephone/Fax (3) 9127**]98
   Other labs: PT / PTT / INR:13.2/22.3/1.1, ALT / AST:45/60, Alk Phos / T
   Bili:147/1.1, Amylase / Lipase:/15, Differential-Neuts:60.0 %, Band:9.0
   %, Lymph:14.0 %, Mono:4.0 %, Eos:4.0 %, Fibrinogen:378 mg/dL, Lactic
   Acid:1.7 mmol/L, Albumin:2.3 g/dL, LDH:850 IU/L, Ca++:8.3 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.6 mg/dL
   Imaging: None
   Microbiology: Blood Cx pending
   Assessment and Plan
   Patient is a 63 yo M  with newly diagnosed adenocarcinoma (likely stage
   IV) with bleeding being treated with XRT, also with DIC and hemolysis.
   #. GI bleed:   s/p oxalyplatin/5FU & XRT
   No transfusions overnight
   Because the bleeding vessels are small branches of the aorta, IR has
   said they would not be able to control bleeding by an embolization
   procedure.
   - continue [**Hospital1 **] PPI
   - check Q6 Hct and transfuse for Hct<25
   - continue XRT ; per radonc, course to proceed through the end of this
   week
   - f/u GI /CT [**Doctor First Name 458**] recs if any, although there is no immediate role for
   intervention
   - maintain access as much as possible/T&S
   #. DIC: Fibrinogen/Coags stable.  Platelets stable today? Chemo vs.
   malignancy effect.  The DIC is likely secondary to tumor; unlikely to
   be [**1-15**] sepsis as all cx negative, now completed a 7-day course of
   Zosyn.  The treatment is systemic treatment of the tumor with chemo/
   XRT as above
    - q6h lab checks for fibrinogen, platelets and PT/PTT: fibrinogen
   slowly rising, coags stable.
   - replete platelets prn for plt<50
   - replete with cryoprecipitate PRN fibrinogen <100, though patient has
   not required this recently
   - replete with FFP if PT/PTT become elevated which has not been an
   issue yet
   #)  Esophageal cancer:  likely stage 4 based on mediastinal and
   retroperitoneal LAD.  Oncology is following.
   - continue XRT through to end of week
   - continue 5-FU infusion (s/p oxyplatinum), last day today
   #) Fever:   Intermittent and low-grade.  Possibly secondary to tumor.
   No evidence of infection currently.  Started Zosyn empirically
   (d1=[**4-26**]) given abdominal symptoms, completing course today.   Cultures
   negative to date.
   - f//u cultures
   - trend fever curve
   .
   #) AVR: patient with aortic valve replacement, stable currently without
   anticoagulation as bioprosthetic
   .
   #) FEN: -  advance diet to regular today
   - continue TPN for now; may d/c if able to tolerate regular diet.
   .
   #) Goals of care:  He has been seen by palliative care, and remains
   full code.
   - discuss with oncology his prognosis and end-points
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2153-5-2**] 08:00 PM 91 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2153-4-28**] 08:00 PM
   PICC Line - [**2153-4-30**] 12:00 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:Transfer to floor